US04027026
A solution of 2-mercaptopyridine (2.2 g.) and 3-aminopropanol (1.14 ml.) in hydrobromic acid (48%, 25 ml.) was heated under reflux for 25 hours. The reaction mixture was evaporated to dryness and the oily residual solid recrystallised twice from ethanol to give 2-(3-aminopropylmercapto)pyridine dihydrobromide (3.2 g.) m.p. 186°-188°.

reactant | 2-mercaptopyridine | 2.2 g | SC1=NC=CC=C1 | C5H5NS
reactant | 3-aminopropanol | 1.14 ml | NCCCO | C3H9NO
reactant | hydrobromic acid | 25 ml | Br | BrH
product | 2-(3-aminopropylmercapto)pyridine dihydrobromide | 3.2 g | Br.Br.NCCCSC1=NC=CC=C1 | InChI=1S/C8H12N2S.2BrH/c9-5-3-7-11-8-4-1-2-6-10-8;;/h1-2,4,6H,3,5,7,9H2;2*1H
